US09029405B2
Step 2: tert-Butyl 3-tert-butoxy-2-[(4-cyano-2-fluorobenzyl)(methyl)amino]propanoate
To a stirred suspension of sodium hydride (1.8 g, 0.038 mol) in dry DMF (10 mL) at 0° C., tert-butyl 3-tert-butoxy-2-[(4-cyano-2-fluorobenzyl)amino]propanoate (6.7 g, 0.019 mol) in DMF (20 mL) was added dropwise. The resulting mixture was allowed to stir for 20 min at RT. Methyl iodide (3.5 mL, 0.0057 mol) was then added dropwise at 000 and the mixture was allowed to stir for 3 hr at RT. The reaction mixture was quenched in ice water and extracted with ethyl acetate (250 mL). The organic layer was washed with water (3×100 mL), dried over sodium sulphate and concentrated under reduced pressure. The crude was purified by column chromatography using petroleum ether and ethyl acetate as eluent, affording the title compound as colorless liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.78 (d, J=9.8 Hz, 1H), 7.67 (t, J=2.5 Hz, 2H), 3.92 (d, J=15.2 Hz, 1H), 3.81-3.70 (d, J=15.0 Hz, 1H), 3.63 (m, 1H), 3.52 (m, 2H), 2.26 (s, 3H), 1.42 (s, 9H), 1.08 (s, 9H).

reactant | sodium hydride | 0.038 mol, 1.8 g | [H-].[Na+]
reactant | tert-butyl 3-tert-butoxy-2-[(4-cyano-2-fluorobenzyl)amino]propanoate | 0.019 mol, 6.7 g | C(C)(C)(C)OCC(C(=O)OC(C)(C)C)NCC1=C(C=C(C=C1)C#N)F | C19H27FN2O3
reactant | Methyl iodide | 0.0057 mol, 3.5 mL | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-tert-butoxy-2-[(4-cyano-2-fluorobenzyl)(methyl)amino]propanoate | C(C)(C)(C)OCC(C(=O)OC(C)(C)C)N(C)CC1=C(C=C(C=C1)C#N)F | C20H29FN2O3
